US06225330B1
tert-butyl N-[(4-{[(benzoylamino)carbothioyl]amino}cyclo-hexyl)methyl]carbamate:
A solution of tert-butyl N-[(4-aminocyclohexyl)methyl]carbamate (4.683 g, 20.5 mmol) and benzoyl isothiocyanate (3.77 g, 23.1 mmol) in 180 ml THF was stirred at room temperature for 20 hours. The solvent was removed in vacuo to yield a golden viscous oil. The oil was triturated with 250 ml hexane and the resulting solid was collected by filtration and washed with hexane. The off-white solid was washed several times with hexane and was dried under vacuum to yield 91% (7.32 g) of the desired product as an off-white solid: 1H-NMR (CDCl3) δ 1.20 (6H, m), 1.44 (9H, s), 1.83 (2H, m), 2.25 (2H, m), 3.01 (2H, t, J=6.4 Hz), 4.20 (1H, m), 4.62 (1H, m), 7.51 (2H, t, J=7.9 Hz), 7.60 (1H, t, J=7.4 Hz), 7.81 (2H, d, J=7.2 Hz), 8.93 (1H, s); 392 (ESMS, MH+).

reactant | tert-butyl N-[(4-aminocyclohexyl)methyl]carbamate | 20.5 mmol, 4.683 g | NC1CCC(CC1)CNC(OC(C)(C)C)=O | C12H24N2O2
reactant | benzoyl isothiocyanate | 23.1 mmol, 3.77 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | tert-butyl N-[(4-{[(benzoylamino)carbothioyl]amino}cyclo-hexyl)methyl]carbamate | 7.32 g, 91% | C(C1=CC=CC=C1)(=O)NC(=S)NC1CCC(CC1)CNC(OC(C)(C)C)=O | C20H29N3O3S
